US05719157
[6,7-Dimethoxy-4-(3,4-dimethoxyphenyl)-3-ethoxycarbonylquinolin-2-yl]methyltriphenylphosphonium chloride (3.0 g) was added at room temperature to a solution of sodium ethoxide in ethanol (prepared from Na (0.13 g) and ethanol (45 ml)). Then 3-(1-methylimidazol-2-yl)propionaldehyde (0.787 g) was added. The mixture was stirred at room temperature for 3 hours, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate/methanol (30/1, v/v) gave ethyl (E)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-[2-(1-methylimidazol-2-yl)ethyl]vinyl]quinoline-3-carboxylate (0.36 g, 15%) as an oil.

reactant | [6,7-Dimethoxy-4-(3,4-dimethoxyphenyl)-3-ethoxycarbonylquinolin-2-yl]methyltriphenylphosphonium chloride | 3.0 g | [Cl-].COC=1C=C2C(=C(C(=NC2=CC1OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC)C1=CC(=C(C=C1)OC)OC
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-(1-methylimidazol-2-yl)propionaldehyde | 0.787 g | CN1C(=NC=C1)CCC=O | C7H10N2O
reactant | water | O | H2O
solvent | ethanol | 45 ml, 0.13 g | C(C)O | C2H6O
product | ethyl (E)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-[2-(1-methylimidazol-2-yl)ethyl]vinyl]quinoline-3-carboxylate | 0.36 g, 15% | COC=1C=C2C(=C(C(=NC2=CC1OC)\C=C\CCC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C30H33N3O6
